US04073917
1-n-Butoxy-2-(2'-diisopropylaminoethoxy)-benzene
The thus obtained 1-n-butoxy-2-(2'-bromoethoxy)-benzene (2.73 g, 10 mmole) was heated under reflux for 160 hours with diisopropylamine (4.0 g; 40 mmole) and toluene (25 ml). The reaction mixture was shaken with water until the precipitated salt had dissolved. The toluene phase was then extracted with an excess of dilute hydrochloric acid. The extracts were washed twice with ether and then made alkaline with sodium hydroxide solution. The precipitated base was taken up in ether and the aqueous phase extracted once more with ether. The ether extracts were washed once with water and then dried over potassium carbonate. The solvent was evaporated and the residue distilled to yield 1.57 g (53.5%) of product with b p 104°-105° C at 0.02 mm Hg; nD25 = 1.4936.

reactant | 1-n-butoxy-2-(2'-bromoethoxy)-benzene | 10 mmole, 2.73 g | C(CCC)OC1=C(C=CC=C1)OCCBr | C12H17BrO2
reactant | diisopropylamine | 40 mmole, 4.0 g | C(C)(C)NC(C)C | C6H15N
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-n-Butoxy-2-(2'-diisopropylaminoethoxy)-benzene | 1.57 g, 53.5% | C(CCC)OC1=C(C=CC=C1)OCCN(C(C)C)C(C)C | C18H31NO2
